US07964608B2
3-(2-Chloro-phenyl)-7-methoxy-1-(4-methyl-cyclohexyl)-1H-pyrimido[5,4-c]quinoline-2,4-dione (50 mg) was prepared from 8-methoxy-4-(4-methyl-cyclohexylamino)-quinoline-3-carboxylic acid ethyl ester (0.164 mmol) and 1-chloro-2-isocyanato-benzene (0.25 mmol) following general procedure C. LCMS: m/z 450 [M+1]+. 1H NMR (400 MHz, CDCl3): δ 9.58 (s, 1H), 7.62 (m, 1H), 7.54-7.59 (m, 1H), 7.52 (m, 2H), 7.06 (m, 2H), 6.42 (m, 1H), 4.91 (m, 1H), 4.06 (s, 3H), 2.71 (m, 1H), 1.98 (m, 1H), 1.65 (m, 4H), 1.56 (m, 1H), 1.08 (d, 3H) ppm.

reactant | 8-methoxy-4-(4-methyl-cyclohexylamino)-quinoline-3-carboxylic acid ethyl ester | 0.164 mmol | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1NC1CCC(CC1)C)OC | C20H26N2O3
reactant | 1-chloro-2-isocyanato-benzene | 0.25 mmol | ClC1=C(C=CC=C1)N=C=O | C7H4ClNO
product | 3-(2-Chloro-phenyl)-7-methoxy-1-(4-methyl-cyclohexyl)-1H-pyrimido[5,4-c]quinoline-2,4-dione | 50 mg | ClC1=C(C=CC=C1)N1C(N(C2=C(C=NC=3C(=CC=CC23)OC)C1=O)C1CCC(CC1)C)=O | C25H24ClN3O3
